US07943619B2
6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid cyclopropylmethyl-amide
As described for example 116e, 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester (107 mg, 0.3 mmol) was converted, using aminomethylcyclopropane instead of cyclopropylamine, to the title compound (72 mg, 63%) which was obtained as a white solid. MS: m/e=382.5 [M+H]+.

reactant | 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester | 0.3 mmol, 107 mg | C(C)OC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H17FN4O3
reactant | aminomethylcyclopropane | NCC1CC1 | C4H9N
product | 6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid cyclopropylmethyl-amide | 72 mg, 63% | C1(CC1)CNC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC(=CC=C1)F | C20H20FN5O2
